US05731452
A hydrogen fluoride-pyridine solution (0.1 ml) was added to a solution of ice-cooled acetonitrile (1 ml) and pyridine (0.1 ml), then a pyridine (0.1 ml) solution of (11R,12S,13E,15S)-9-butyryloxy-11,15-bis(tert-butyldimethylsiloxy)-7-thiaprosta-8,13-dienoic acid (79 mg) was added. The ice bath was detached, then the solution was stirred for 20 hours while raising it to room temperature. The reaction solution was poured into a mixture of ethyl acetate and saturated sodium hydrogencarbonate. The target substance was extracted from the mixture by ethyl acetate. The extract was washed with saturated sodium chloride solution, then was dried over anhydrous sodium sulfate. This solution was concentrated under reduced pressure, then was purified by a preparative TLC (Merck TLC plate silica gel 60 F254, 20×20 cm, layer thickness 0.25 mm, 2 pieces, ethyl acetate:hexane 4:1) to obtain (11R,12S,13E,15S)-9-butyryloxy-11,15-dihydroxy-7-thiaprosta-8,13-diene acid (17 mg, 33%).

reactant | hydrogen fluoride-pyridine | 0.1 ml | N1=CC=CC=C1.F
reactant | acetonitrile | 1 ml | C(C)#N | C2H3N
reactant | (11R,12S,13E,15S)-9-butyryloxy-11,15-bis(tert-butyldimethylsiloxy)-7-thiaprosta-8,13-dienoic acid | 79 mg | C(CCC)(=O)OC1=C(SCCCCCC(=O)O)[C@H]([C@@H](C1)O[Si](C)(C)C(C)(C)C)\C=C\[C@H](CCCCC)O[Si](C)(C)C(C)(C)C | C35H66O6SSi2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 0.1 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 0.1 ml | N1=CC=CC=C1 | C5H5N
product | (11R,12S,13E,15S)-9-butyryloxy-11,15-dihydroxy-7-thiaprosta-8,13-diene | 17 mg, 33% | C(CCC)(=O)OC1=C(SCCCCCC)[C@H]([C@@H](C1)O)\C=C\[C@H](CCCCC)O | C23H40O4S
